US03959322
Dissolve 2-propylcyclohexane-1,3-dione (36.3 g) in benzene (400 cc) containing pyridine (21.2 cc). Add 6-m-methoxyphenylhex-1-en-3-one (43.2 g) and reflux the solution over night. Cool the reaction mixture, wash with water, aqueous sodium carbonate, and 10% aqueous sulfuric acid, dry and remove the solvents under reduced pressure to obtain 2-(6-m-methoxyphenyl-3-oxohexyl)-2-propylcyclohexane-1,3-dione.

reactant | 2-propylcyclohexane-1,3-dione | 36.3 g | C(CC)C1C(CCCC1=O)=O | C9H14O2
reactant | pyridine | 21.2 cc | N1=CC=CC=C1 | C5H5N
reactant | 6-m-methoxyphenylhex-1-en-3-one | 43.2 g | COC=1C=C(C=CC1)CCCC(C=C)=O | C13H16O2
solvent | benzene | 400 cc | C1=CC=CC=C1 | C6H6
product | 2-(6-m-methoxyphenyl-3-oxohexyl)-2-propylcyclohexane-1,3-dione | COC=1C=C(C=CC1)CCCC(CCC1(C(CCCC1=O)=O)CCC)=O | C22H30O4
